US07691879B2
Step C: 2-allyl-4-(3-fluorophenyl)-1-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroisoquinoline-3-carbonitrile
Bis(pinacolato)diboron (1.2 g, 4.9 mmol), PdCl2(dppf) (181 mg, 0.22 mmol), dppf (123 mg, 0.22 mmol), KOAc (1.3 g, 13.3 mmol) were added to a solution of 2-Allyl-3-cyano4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-6-yl trifluoromethanesulfonate (2.0 g, 4.4 mmol) in anhydrous dioxane (24 mL) under Nitrogen in a high pressure tube. The tube was sealed and the reaction heated to 80° C. for 2 h. The reaction was cooled to room temperature, diluted with EtOAc, and filtered through Celite. The filtrate was washed with H2O, dried (MgSO4), filtered and concentrated. The black residue was purified by flash chromatography (1:2 EtOAc/hexanes) to yield the title compound as a white solid.

reactant | Bis(pinacolato)diboron | 4.9 mmol, 1.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 13.3 mmol, 1.3 g | CC(=O)[O-].[K+]
reactant | 2-Allyl-3-cyano4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-6-yl trifluoromethanesulfonate | 4.4 mmol, 2.0 g | FC(S(=O)(=O)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC=C)C#N)C1=CC(=CC=C1)F)(F)F | C20H12F4N2O4S
solvent | dioxane | 24 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.22 mmol, 181 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.22 mmol, 123 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-allyl-4-(3-fluorophenyl)-1-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroisoquinoline-3-carbonitrile | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)B1OC(C(O1)(C)C)(C)C)=O | C25H24BFN2O3
